US04374829
In the manner described in Example 26, ethyl-2-oxo-4-(2-chlorophenyl)butyrate and L-alanyl-L-proline are condensed in the presence of sodium cyanoborohydride to yield N-[1-ethoxycarbonyl-3-(2-chlorophenyl)-propyl]-L-alanyl-L-proline. The mass spectrum shows a peak at 411, (M+1), and a strong peak at 392, (M-18).

reactant | ethyl-2-oxo-4-(2-chlorophenyl)butyrate | C(C)OC(C(CCC1=C(C=CC=C1)Cl)=O)=O | C12H13ClO3
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-ethoxycarbonyl-3-(2-chlorophenyl)-propyl]-L-alanyl-L-proline | C(C)OC(=O)C(CCC1=C(C=CC=C1)Cl)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H27ClN2O5
